US07700786B2
Triethylamine (0.20 g, 2.0 mmol) and ethyl isocyanate (0.14 g, 2.0 mmol) were added to a solution of methyl 3-(2,6-dichloro-4-trifluoromethylphenyloxy)pyrazole-5-carboxylate (0.53 g, 1.5 mmol) in ethyl acetate (10 ml), and the mixture was stirred at room temperature for 6 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate (10 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (chloroform), to give a white solid of methyl 3-(2,6-dichloro-4-trifluoromethylphenyloxy)-1 (N-ethylcarbamoyl)pyrazole-5-carboxylate (0.15 g, yield: 23.5%). mp: 88-90° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.20 (t, J=7.3 Hz, 3H), 3.37 (dq, J=6.0 and 7.3 Hz, 2H), 3.95 (s, 3H), 6.21 (s, 1H), 6.40-6.60 (m, 1H), 7.68 (d, J=0.5 Hz, 2H).

reactant | Triethylamine | 2.0 mmol, 0.20 g | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | 2.0 mmol, 0.14 g | C(C)N=C=O | C3H5NO
reactant | methyl 3-(2,6-dichloro-4-trifluoromethylphenyloxy)pyrazole-5-carboxylate | 1.5 mmol, 0.53 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)OC1=NNC(=C1)C(=O)OC | C12H7Cl2F3N2O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-(2,6-dichloro-4-trifluoromethylphenyloxy)-1 (N-ethylcarbamoyl)pyrazole-5-carboxylate | 0.15 g, yield: 23.5% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)OC1=NN(C(=C1)C(=O)OC)C(NCC)=O | C15H12Cl2F3N3O4
